US07501430B2
7a: Preparation of 4-[6-(3-aminophenyl)imidazo[2,1-b][1,3]thiazol-5-yl]-N-{(3R)-1-[(4-chlorophenyl)sulfonyl]piperidin-3-yl}pyrimidin-2-amine
N-{(3R)-1-[(4-chlorophenyl)sulfonyl]piperidin-3-yl}-4-[6-(3-nitrophenyl)imidazo[2,1-b][1,3]thiazol-5-yl]pyrimidin-2-amine (1.05 g, 1.76 mmol) was dissolved in ethanol 95% (10 ml) and water (2.5 ml). The solution was treated with irn powder (1 g, 17.6 mmol) and concentrated HCl (200 uL). The reaction mixture was stirred at 100° C. for one hour. The mixture was cooled down and diluted with ethanol (100 ml). The heterogenous mixture was filtered over Celite and the volatiles were removed in vacuo. The residue was taken up in EtOAc (150 ml) and the organic phase was washed with a saturated aqueous NaHCO3 solution (2×100 ml), water (100 ml) and a saturated aqueous NaCl solution (100 ml). After drying over sodium sulfate and concentration, the solid was triturated in ether, giving the title compound as a yellow powder, 0.835 g (84%). M.p.=226-228° C. 400 MHz 1H NMR (DMSO-d6) δ: 8.73 (br. s, 1H), 8.10 (d, J=5.6 Hz, 1H), 7.77 (d, J=8.5 Hz, 2H), 7.67 (d, J=8.5 Hz, 2H), 7.36 (d, J=4.4 Hz, 1H), 7.09 (t, J=7.7 Hz, 1H), 7.02 (d, J=7.3 Hz, 1H), 6.81 (s, 1H), 6.69 (d, J=7.6 Hz, 1H), 6.65 (d, J=7.9 Hz, 1H), 6.49 (d, J=5.3 Hz, 1H), 5.01 (br. s, 2H), 4.02-3.88 (m, 1H), 3.73 (dd, J=11.1, 3.5 Hz, 1H), 3.47 (d, J=11.7 Hz, 1H), 2.60-2.46 (m, 1H), 2.39 (t, J=10.2 Hz, 1H), 1.98-1.80 (m, 2H), 1.68-1.51 (m, 1H), 1.47-1.32 (m, 1H). LCMS: 566 [M+H]. Calc. for C26H24N7O2S2Cl: C, 55.16; H, 4.27; N, 17.32. Found C, 54.98; H, 3.85; N, 17.23.

reactant | N-{(3R)-1-[(4-chlorophenyl)sulfonyl]piperidin-3-yl}-4-[6-(3-nitrophenyl)imidazo[2,1-b][1,3]thiazol-5-yl]pyrimidin-2-amine | 1.76 mmol, 1.05 g | ClC1=CC=C(C=C1)S(=O)(=O)N1C[C@@H](CCC1)NC1=NC=CC(=N1)C1=C(N=C2SC=CN21)C2=CC(=CC=C2)[N+](=O)[O-] | C26H22ClN7O4S2
reactant | HCl | 200 uL | Cl | ClH
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | water | 2.5 ml | O | H2O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 4-[6-(3-aminophenyl)imidazo[2,1-b][1,3]thiazol-5-yl]-N-{(3R)-1-[(4-chlorophenyl)sulfonyl]piperidin-3-yl}pyrimidin-2-amine | NC=1C=C(C=CC1)C=1N=C2SC=CN2C1C1=NC(=NC=C1)N[C@H]1CN(CCC1)S(=O)(=O)C1=CC=C(C=C1)Cl | C26H24ClN7O2S2
